US07176227B2
Synthesis of 2,6-dihydroxymethylnaphthalene
2,6-naphthalene dicarboxylic acid dimethyl (5.00 g) was dissolved in anhydrous THF (150 ml) and added with lithium aluminum hydride (1.55 g) under ice-cooling, followed by stirring at room temperature for 2 hours under a nitrogen atmosphere. After completion of the reaction, methanol and an aqueous potassium sodium tartrate solution were added to the solution in this order and the whole was stirred overnight. The solution was subjected to extraction with chloroform and ethyl acetate and the extract was then washed with saturated saline solution. Subsequently, the organic layer was dried with anhydrous sodium sulfate and the solvent was distilled off, thereby obtaining the subject compound (3.90 g) as a white solid.

reactant | 2,6-naphthalene dicarboxylic acid dimethyl | 5.00 g | COC(=O)C1=CC2=C(C=C1)C=C(C=C2)C(=O)OC | C14H12O4
reactant | lithium aluminum hydride | 1.55 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methanol | CO | CH4O
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2,6-dihydroxymethylnaphthalene | 3.90 g | OCC1=CC2=CC=C(C=C2C=C1)CO | C12H12O2
